US04666913
Step 1: 6-(2-Bromopropionyl)-3,4-dihydro-4-methyl-2(1H)-quinazolinone
2-Bromopropionyl bromide (16 g) is added dropwise to a mixture of 3,4-dihydro-4-methyl-2(1H)-quinazolinone (6.1 g) and anhydrous aluminum chloride (12.5 g) in carbon disulfide (110 ml). The reaction mixture is refluxed overnight under nitrogen, the carbon disulfide is decanted and the residue treated with hydrochloric acid (6N). The acidic residue is treated with ethyl acetate and the layers separated. The aqueous layer is extracted with ethyl acetate and the combined organic extracts washed with sat'd. aqueous sodium bicarbonate and water and dried. The organic layer is filtered and the filtrate stripped in vacuo, affording an oil which crystallizes in vacuo, M.P. 153°-156° C.

reactant | 2-Bromopropionyl bromide | 16 g | BrC(C(=O)Br)C | C3H4Br2O
reactant | 3,4-dihydro-4-methyl-2(1H)-quinazolinone | 6.1 g | CC1NC(NC2=CC=CC=C12)=O | C9H10N2O
reactant | aluminum chloride | 12.5 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | carbon disulfide | 110 ml | C(=S)=S | CS2
product | 6-(2-Bromopropionyl)-3,4-dihydro-4-methyl-2(1H)-quinazolinone | BrC(C(=O)C=1C=C2C(NC(NC2=CC1)=O)C)C | C12H13BrN2O2
